US03993763
To the solution of 2.0 g of α-(4-amino-3-chlorophenyl)-propionic acid in 20 ml of ethanol, 1.4 g of 1,4-dichloro-2-butanol are added, followed by 4 g of potassium carbonate while stirring. The mixture is stirred for 4 hours at the steam cone and evaporated under reduced pressure. The residue is taken up in water, the solution acidified with N hydrochloric acid to a pH of 5.5 and extracted with diethyl ether. The extract is dried, filtered and evaporated, to yield the α-[3-chloro-4-(3-hydroxypyrrolidino)-phenyl]-propionic acid of the formula ##SPC9##

reactant | α-(4-amino-3-chlorophenyl)-propionic acid | 2.0 g | NC1=C(C=C(C=C1)C(C(=O)O)C)Cl | C9H10ClNO2
reactant | 1,4-dichloro-2-butanol | 1.4 g | ClCC(CCCl)O | C4H8Cl2O
reactant | potassium carbonate | 4 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | α-[3-chloro-4-(3-hydroxypyrrolidino)-phenyl]-propionic acid | ClC=1C=C(C=CC1N1CC(CC1)O)C(C(=O)O)C | C13H16ClNO3
